US07947690B2
A mixture of 390 mg of ethyl {1-[2-(4-chloro-2,5-difluorophenyl)-6,6-dioxo-5,7-dihydrothieno[3,4-d]pyrimidin-4-yl]piperidin-4-ylidene}acetate, 10 ml of 6M hydrochloric acid aqueous solution, and 10 ml of THF was stirred at 90° C. for 5.5 hours. The solvent was distilled off under reduced pressure, and the resultant solid was recrystallized from water-acetonitrile to yield 126 mg of {1-[2-(4-chloro-2,5-difluorophenyl)-6,6-dioxo-5,7-dihydrothieno[3,4-d]pyrimidin-4-yl]piperidin-4-ylidene}acetic acid hydrochloride.

reactant | ethyl {1-[2-(4-chloro-2,5-difluorophenyl)-6,6-dioxo-5,7-dihydrothieno[3,4-d]pyrimidin-4-yl]piperidin-4-ylidene}acetate | 390 mg | ClC1=CC(=C(C=C1F)C=1N=C(C2=C(N1)CS(C2)(=O)=O)N2CCC(CC2)=CC(=O)OCC)F | C21H20ClF2N3O4S
reactant | hydrochloric acid | 6M, 10 ml | Cl | ClH
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | {1-[2-(4-chloro-2,5-difluorophenyl)-6,6-dioxo-5,7-dihydrothieno[3,4-d]pyrimidin-4-yl]piperidin-4-ylidene}acetic acid hydrochloride | 126 mg | Cl.ClC1=CC(=C(C=C1F)C=1N=C(C2=C(N1)CS(C2)(=O)=O)N2CCC(CC2)=CC(=O)O)F | InChI=1S/C19H16ClF2N3O4S.ClH/c20-13-7-14(21)11(6-15(13)22)18-23-16-9-30(28,29)8-12(16)19(24-18)25-3-1-10(2-4-25)5-17(26)27;/h5-7H,1-4,8-9H2,(H,26,27);1H
